US05932601
A mixture of 2-[5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]pentyl]-1,3-dioxolan (3.6 g), 2,4-oxazolidinedione (1.7 g), piperidine (0.72 g) and acetic acid (50 ml) was stirred for 16 hours under reflux. The reaction mixture was concentrated under reduced pressure, which was dissolved in ethyl acetate. The solution was successively washed with a saturated aqueous solution of sodium hydrogencarbonate, water, 1N HCl and water, followed by drying (MgSO4). The ethyl acetate layer was concentrated under reduced pressure, which was subjected to column chromatography on silica gel. From the fraction eluted with chloroform-methanol (50:1), was obtained 5-[6-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]hexylidene]-2,4-oxazolidinedione as an oily product. The oily product was dissolved in tetrahydrofuran (THF) (80 ml), to which was added palladium-carbon (5%, 1.0 g). The mixture was subjected to catalytic hydrogenation under 1 atmospheric pressure at room temperature. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The concentrate was subjected to column chromatography on silica gel. From the fraction eluted with chloroform-methanol (50:1), was obtained 5-[6-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]hexyl]-2,4-oxazolidinedione, which was recrystallized from ethyl acetate-isopropyl ether to give colorless prisms, m.p.113-117° C.

reactant | 2-[5-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]pentyl]-1,3-dioxolan | 3.6 g | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CCCCCC1OCCO1 | C26H31NO5
reactant | 2,4-oxazolidinedione | 1.7 g | O1C(NC(C1)=O)=O | C3H3NO3
reactant | piperidine | 0.72 g | N1CCCCC1 | C5H11N
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5-[6-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]hexylidene]-2,4-oxazolidinedione | COC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CCCCCC=C1C(NC(O1)=O)=O | C27H28N2O6
